US05990307
N-[3-(t-Butyloxycarbonylamino)propyl]-2-aminoethylphosphonic acid diethyl ester
To a solution of 3-(t-butyloxycarbonylamino) propanamine (77 g, 0.44 mole) in methanol (500 mL) was added diethyl vinylphosphonate 97% (75 g, 0.44 mole; Aldrich 11, 613-0) under nitrogen and kept in a water bath at ~20° C. for 48 hr. The reaction mixture was concentrated in vacuo and the residue (~160 g) was put on a pad of "Florisil" (3"×6") and eluted with methylene chloride/hexane 1:1, methylene chloride and finally 10% methanol/methylene chloride to give the title compound as a colorless oil (121 g, 80%).

reactant | 3-(t-butyloxycarbonylamino) propanamine | 0.44 mole, 77 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | diethyl vinylphosphonate | 0.44 mole, 75 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
solvent | methanol | 500 mL | CO | CH4O
product | N-[3-(t-Butyloxycarbonylamino)propyl]-2-aminoethylphosphonic acid diethyl ester | 121 g, 80% | C(C)OP(OCC)(=O)CCNCCCNC(=O)OC(C)(C)C | C14H31N2O5P
